US04873262
2-Dipropylamino-8-(2-amino-ethyl)-1,2,3,4-tetrahydronaphthalene
820 mg (20.4 mmol) of sodium borohydride were initially introduced into 30 ml of absolute tetrahydrofuran at 0° C. under nitrogen. 3.24 ml (25.8 mmol) of boron trifluoride diethyl ether complex were added dropwise at this temperature, and the mixture was subsequently stirred for 15 minutes at room temperature. A solution of 1.3 g (4.3 mmol) of 2-dipropylamino-8-(2-nitro-ethenyl)-1,2,3,4-tetrahydronaphthalene and 10 ml of absolute tetrahydrofuran was then added dropwise, and the mixture was then stirred for 5.5 h under reflux. After cooling to room temperature, 55 ml of ice water were carefully added dropwise, and the mixture was then acidified using 55 ml of 1N hydrochloric acid. The mixture was subsequently stirred for 2 h at +80°-+85° C. The cooled aqueous phase was washed twice with 35 ml of ether, then adjusted to pH 12 using 5 molar sodium hydroxide solution, and the product was extracted with methylene chloride. The extract was dried over sodium sulphate and evaporated. The product was obtained by subsequent chromatography over silica gel 60, 40-63 μm, using isopropanol/triethylamine, 95:5.

reactant | sodium borohydride | 20.4 mmol, 820 mg | [BH4-].[Na+]
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
reactant | 2-dipropylamino-8-(2-nitro-ethenyl)-1,2,3,4-tetrahydronaphthalene | 4.3 mmol, 1.3 g | C(CC)N(C1CC2=C(C=CC=C2CC1)C=C[N+](=O)[O-])CCC | C18H26N2O2
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 1N, 55 ml | Cl | ClH
solvent | isopropanol triethylamine | C(C)(C)O.C(C)N(CC)CC
product | 2-Dipropylamino-8-(2-amino-ethyl)-1,2,3,4-tetrahydronaphthalene | C(CC)N(C1CC2=C(C=CC=C2CC1)CCN)CCC | C18H30N2
